US06706751B2
In analogy to example 7.2, 5-(4-Bromo-butoxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester and methoxyethyl-ethylamine were converted to yield 5-{4-[(2-Methoxy-ethyl)-methyl-amino]-butoxy}-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as colorless oil, MS: 379 (MH+).

reactant | 5-(4-Bromo-butoxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)OCCCCBr | C17H24BrNO3
reactant | methoxyethyl-ethylamine | COCCNCC | C5H13NO
product | 5-{4-[(2-Methoxy-ethyl)-methyl-amino]-butoxy}-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)OCCCCN(C)CCOC | C21H34N2O4
